US07932282B2
A solution of 1-(2-fluoro-4-pyridinyl)-3-methyl-2-oxo-4-imidazolidinecarboxylic acid (200 mg, 0.521 mmol) and N-ethyl morpholine (0.400 ml, 3.13 mmol) in dichloromethane (10 ml) was treated with 1-hydroxybenzotriazole hydrate (80 mg, 0.521 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (100 mg, 0.521 mmol) and the reaction mixture was stirred at room temperature for 10 minutes. [(2,4-Dichlorophenyl)methyl]amine (0.084 ml, 0.521 mmol) was then added and the reaction stirred overnight. The reaction mixture was diluted with dichloromethane and washed with saturated sodium hydrogen carbonate solution, water and brine and separated through a hydrophobic frit. The organic layer was reduced under vacuum. The residue was purified mass-directed automated HPLC to give N-[(2,4-dichlorophenyl)methyl]-1-(2-fluoro-4-pyridinyl)-3-methyl-2-oxo-4-imidazolidinecarboxamide (64 mg, 30.3% yield). LC/MS [M+H]+=397, retention time=2.45 minutes.

reactant | 1-(2-fluoro-4-pyridinyl)-3-methyl-2-oxo-4-imidazolidinecarboxylic acid | 0.521 mmol, 200 mg | FC1=NC=CC(=C1)N1C(N(C(C1)C(=O)O)C)=O | C10H10FN3O3
reactant | N-ethyl morpholine | 3.13 mmol, 0.400 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.521 mmol, 80 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.521 mmol, 100 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | [(2,4-Dichlorophenyl)methyl]amine | 0.521 mmol, 0.084 ml | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[(2,4-dichlorophenyl)methyl]-1-(2-fluoro-4-pyridinyl)-3-methyl-2-oxo-4-imidazolidinecarboxamide | 64 mg, 30.3% yield | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1N(C(N(C1)C1=CC(=NC=C1)F)=O)C | C17H15Cl2FN4O2
